US06222060B1
Synthesis of o-(carbomethoxy)phenylmethanesulfonyl Chloride
A mixture of water (50 ml) and 29.5 g of sodium thiosulfate pentahydrate was added to o-(chloromethyl)benzoic acid methyl ester 20 g, and stirred for 5 hours at 50˜55° C. 300 ml of acetic acid was added and then excess of chlorine gas for 3 hours was infused, while maintaining the internal temperature of reactor at 5˜10° C. The reaction mixture was further stirred for 1 hour at the same temperature. Excess of chlorine gas was removed via infusion of nitrogen gas and with the addition of ice water (300 ml), stirred for 30 minutes. A solid, so formed, was filtered with a cold water and dried to afford 22.4 g of desired compound (yield 83%) as a white solid.

reactant | water | 50 ml | O | H2O
reactant | sodium thiosulfate pentahydrate | 29.5 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | o-(chloromethyl)benzoic acid methyl ester | 20 g | COC(C1=C(C=CC=C1)CCl)=O | C9H9ClO2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | o-(carbomethoxy)phenylmethanesulfonyl Chloride | 22.4 g, yield 83% | C(=O)(OC)C1=C(C=CC=C1)CS(=O)(=O)Cl | C9H9ClO4S
